US07375115B2
[N-(tert-Butoxycarbonyl)-N-carboxymethylamino]acetic acid
Iminodiacetic acid (10.00 g) was dissolved in a mixed solution of 1,4dioxane (160 mL) and water (80 mL). To this were added a lN aqueous sodium hydroxide solution (160 mL) and then di-tert-butyl dicarbonate (18.04 g). The solution was stirred at room temperature for 22 hours. The solution was concentrated under reduced pressure, made to pH 3 by addition of a 5% potassium hydrogen sulfate solution and then extracted with 25% ethanol/chloroform. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The resulting residue was washed with hexane to give the title compound (4.25 g).

reactant | Iminodiacetic acid | 10.00 g | N(CC(=O)O)CC(=O)O | C4H7NO4
reactant | sodium hydroxide | 160 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 18.04 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4dioxane | 160 mL | O1CCOCC1 | C4H8O2
solvent | water | 80 mL | O | H2O
product | [N-(tert-Butoxycarbonyl)-N-carboxymethylamino]acetic acid | 4.25 g | C(C)(C)(C)OC(=O)N(CC(=O)O)CC(=O)O | C9H15NO6
